US04405789
The operation is as in Example 1, but starting from 12 g of 4-[2-(2-phenyl-3-indolyl)-ethyl]-piperidine and 0.2 g of triethylbenzylammonium chloride in 110 ml of chloroform and 12 g of sodium hydroxide in 24 ml of water. 1.05 g of 2-phenyl-3-chloro-4-[2-(4-piperidyl)-ethyl]-quinoline are finally obtained in the form of the hydrochloride melting at 233° C.

reactant | 4-[2-(2-phenyl-3-indolyl)-ethyl]-piperidine | 12 g | C1(=CC=CC=C1)C=1NC2=CC=CC=C2C1CCC1CCNCC1 | C21H24N2
reactant | sodium hydroxide | 12 g | [OH-].[Na+]
reactant | hydrochloride | Cl | ClH
reactant | chloroform | 110 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | triethylbenzylammonium chloride | 0.2 g | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
solvent | water | 24 ml | O | H2O
product | 2-phenyl-3-chloro-4-[2-(4-piperidyl)-ethyl]-quinoline | 1.05 g | C1(=CC=CC=C1)C1=NC2=CC=CC=C2C(=C1Cl)CCC1CCNCC1 | C22H23ClN2
